US04497817
To a mixture of 100 ml of concentrated hydrochloric acid solution and 300 ml of methylcellosolve was added 8.5 g of 7-acetamido-2-phenylimidazo[2,1-b]benzothiazole mono-hydrate and the mixture was stirred for 4 hours at 100°-110° C. The reaction mixture was cooled to form crystals, which were recovered by filtration. The crystals were suspended in 200 ml of methylcellosolve and after alkalifying the suspension by adding concentrated aqueous ammonia, 80 ml of water was added to the mixture followed by cooling, thereby crystals precipitated. The crystals precipitated were recovered by filtration and dried to provide 5.76 g of 7-amino-2-phenylimidazo[2,1-b]benzothiazole.

reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | 7-acetamido-2-phenylimidazo[2,1-b]benzothiazole mono-hydrate | 8.5 g | O.C(C)(=O)NC1=CC2=C(N3C(S2)=NC(=C3)C3=CC=CC=C3)C=C1
solvent | methylcellosolve | 300 ml | COCCO | C3H8O2
product | 7-amino-2-phenylimidazo[2,1-b]benzothiazole | 5.76 g | NC1=CC2=C(N3C(S2)=NC(=C3)C3=CC=CC=C3)C=C1 | C15H11N3S
